US04879300
(C) 1-(3,4-dichlorophenylacetyl)-2-(1-dimethylaminoethyl)piperidine hydrochloride--Diastereoisomer A
Gr 1.6 (moles 0.01) of 2-(1-dimethylaminoethyl) piperidine and gr2.25 (moles 0.011) of 3,4-dichlorophenylacetic acid, dissolved in 20 ml. of CH2Cl2 were added with gr.3.1 (moles 0.015) of dicyclohexylcarbodiimide dissolved in 20 ml. of CH2Cl2. After 48 hours standing, the reaction mixture was worked up as in Ex. No 1 C) giving 2.8 g. of oily mixture of diastereoisomers. This was chromatographed on g.60 of silicagel, eluting with CH2Cl2 containing increasing amounts of methanol (0.2% to 1%). The fast moving diastereoisomer A was so obtained. It was dissolved in acetone and transformed into the hydrochloride by acidifying with HCl dissolved in ether. The precipitate was crystallized from acetone.

reactant | 2-(1-dimethylaminoethyl) piperidine | CN(C(C)C1NCCCC1)C | C9H20N2
reactant | 3,4-dichlorophenylacetic acid | ClC=1C=C(C=CC1Cl)CC(=O)O | C8H6Cl2O2
reactant | dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | hydrochloride | Cl | ClH
solvent | acetone | CC(=O)C | C3H6O
solvent | ether | CCOCC | C4H10O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 1-(3,4-dichlorophenylacetyl)-2-(1-dimethylaminoethyl)piperidine hydrochloride | Cl.ClC=1C=C(C=CC1Cl)CC(=O)N1C(CCCC1)C(C)N(C)C | InChI=1S/C17H24Cl2N2O.ClH/c1-12(20(2)3)16-6-4-5-9-21(16)17(22)11-13-7-8-14(18)15(19)10-13;/h7-8,10,12,16H,4-6,9,11H2,1-3H3;1H
